US08202873B2
Dissolve 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (2.50 g, 8.40 mmol) and phenylboronic acid (1.23 g, 10.08 mmol) in N,N-dimethylacetamide (25 mL) and water (10 mL). Add tetrakis(triphenylphosphine) palladium(0) (0.49 g, 0.42 mmol) and potassium carbonate (2.80 g, 20.16 mmol). Heat for 4 hr. at 114° C. and allow to cool about 1.5 hr. to room temperature. Partition reaction mixture between MTBE and water. Separate layers. Dry organic layer (sodium sulfate), filter, concentrate and purify (silica gel chromatography eluting with 10:90 to 30:70 ethyl acetate:hexanes), to give 3′-(phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (2.49 g, 87%). MS (ES): m/z=341 [M+H]+.

reactant | 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 8.40 mmol, 2.50 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1Cl | C13H19ClN4O2
reactant | phenylboronic acid | 10.08 mmol, 1.23 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 20.16 mmol, 2.80 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 25 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.42 mmol, 0.49 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3′-(phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 2.49 g, 87% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C1=CC=CC=C1 | C19H24N4O2
